US04769464
258 g of diethyl methylenemalonate, prepared by a Knoevenagel condensation of malonic ester and formaldehyde, are dissolved in 1 liter of methanol and reacted with ozone, and subsequently hydrogenated, analogously to the procedure indicated in Example 5. 5 g of 10% Pd-on-C in 200 ml of methanol are initially taken as the hydrogenation catalyst. The consumption of hydrogen is 28.9 standard liters (86% of theory). Working up as in Example 5 and rectification in vacuo gives 214 g of diethyl mesoxalate boiling at 110°-112° C./20, corresponding to a yield of 82% of theory.

reactant | diethyl methylenemalonate | 258 g | C=C(C(=O)OCC)C(=O)OCC | C8H12O4
reactant | formaldehyde | C=O | CH2O
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 1 liter | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd | 5 g | [Pd] | Pd
product | diethyl mesoxalate | 214 g, yield of 82% | C(C(=O)C(=O)OCC)(=O)OCC | C7H10O5
